US09382197B2
Step 3: N-hydroxy-4-[(1R)-1-({[4-(trifluoromethyl)phenyl]sulfonyl}amino)ethyl]benzamide
To a 2-dram vial containing (R)-tert-butyl 4-(1-(4-(trifluoromethyl)phenylsulfonamido)ethyl)benzoate was added 1,2-dichloroethane (2 mL), and trifluoroacetic acid (0.246 mL, 3.20 mmol). After shaking at rt for 4 h, the mixture was evaporated to dryness to give a residue which was azetroped with toluene (2×5 mL). To the solid residue in another vial was added HATU (0.091 g, 0.24 mmol), N,N-dimethylformamide (1.5 mL), triethylamine (0.18 mL, 1.28 mmol). The mixture was stirred for 10 min then O-(tert-butyldimethylsilyl)hydroxylamine (0.047 g, 0.32 mmol) in DCM (0.5 mL) was added. The solution was shaken at rt for 2 h, after which the solvent was then completely removed to afford a brown oil. To this oil in another vial was added hydrochloric acid (3.5 mL, 1% in IPA). After shaking at rt for 30 min, solid NaHCO3 was added to quench the excess acid, and the solvent was then removed. To the solid residue was added DMSO (1.2 mL). After filtration, the DMSO solution was purified by Gilson prep-HPLC to give the title compound (0.091 g, 15%) as a white solid. LC-MS: (FA) ES− 387; 1H NMR (Methanol-d4, 400 MHz) δ7.79 (d, J=8.3 Hz, 2H), 7.66 (d, J=8.3 Hz, 2H), 7.51 (d, J=8.5 Hz, 2H), 7.19 (d, J=8.5 Hz, 2H), 4.53 (q, J=7.0 Hz, 1H), 1.36 (d, J=7.0 Hz, 3H).

reactant | (R)-tert-butyl 4-(1-(4-(trifluoromethyl)phenylsulfonamido)ethyl)benzoate | FC(C1=CC=C(C=C1)S(=O)(=O)N[C@H](C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)(F)F | C20H22F3NO4S
reactant | trifluoroacetic acid | 3.20 mmol, 0.246 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HATU | 0.24 mmol, 0.091 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.28 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 0.32 mmol, 0.047 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
reactant | hydrochloric acid | 3.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | N-hydroxy-4-[(1R)-1-({[4-(trifluoromethyl)phenyl]sulfonyl}amino)ethyl]benzamide | 0.091 g, 15% | ONC(C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C16H15F3N2O4S
